US06342516B1
To a solution of 2,5-dimethoxy-3,4,6-trimethylphenylpropionic acid (1.91 g), 1-(4-aminophenyl)imidazole(1.35 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride(1.63 g) and 1-hydroxybenzotriazole(1.30 g) in DMF (30 ml) was added triethylamine(1.3 ml) and the mixture was stirred at room temperature for 20 hours. The reaction mixture was poured into ice water and the precipitate was filtered and dissolved in chloroform. This solution was washed with brine, dried (MgSO4) and evaporated to dryness. The residue was crystallized from chloroform-ether to obtain N-[4-(imidazol-1-yl)phenyl]-3-(1,4-dimethoxy-3,5,6-trimethylphenyl) propanamide(2.89 g). To a suspension of this amide(1.01 g) and pyridine-2,6-dicarboxylic(1.30 g) in acetonitrile(18 ml) and water(4 ml) was added dropwise cerium ammonium nitrite(4.24 g) in water-acetonitrile(5 ml—5 ml) at 0? with stirring. After the addition was completed, the reaction mixture was stirred for 30 minutes at the same temperature and crystals precipitated were filtered. The crystals were dissolved in chloroform-methanol. This solution was washed with brine, dried(MgSO4) and evaporated to dryness. The residue was purified by column chromatography on silica gel (chloroform: methanol=20:1) to obtain the title compound(0.89 g). m.p. 145-150° C.

reactant | 2,5-dimethoxy-3,4,6-trimethylphenylpropionic acid | 1.91 g | COC1=C(C(=C(C(=C1C)C)OC)C)C(C(=O)O)C | C14H20O4
reactant | 1-(4-aminophenyl)imidazole | 1.35 g | NC1=CC=C(C=C1)N1C=NC=C1 | C9H9N3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.63 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.30 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(imidazol-1-yl)phenyl]-3-(1,4-dimethoxy-3,5,6-trimethylphenyl) propanamide | 2.89 g | N1(C=NC=C1)C1=CC=C(C=C1)NC(CCC1(CC(=C(C(=C1C)C)OC)C)OC)=O | C23H29N3O3
